US09403773B2
8-bromo-5-fluoro-3-(4-methoxyphenyl)-1H-quinolin-4-one (150 mg, 0.43 mmol), 2-furan boronic acid (145 mg, 1.3 mmol), 1,1′-bis(diphenylphosphino)ferrocene dichloro palladium (II)-dichloromethane complex (PdCl2(DPPF)) (35 mg, 0.04 mmol) and a 2N sodium carbonate aqueous solution (1 ml) were added to 1,2-dimethoxyethane (3 ml), and the mixture was heated at 180° C. for 10 minutes (microwave reactor). After the reaction mixture was cooled to room temperature, dichloromethane was added, and then filtration with Celite was carried out. The filtrate was extracted with dichloromethane and washed with water. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (dichloromethane). The purified product was concentrated under reduced pressure, and the residue was recrystallized from n-hexane-ethyl acetate to thereby obtain 100 mg of powdery slightly orange 5-fluoro-8-furan-2-yl-3-(4-methoxyphenyl)-1H-quinolin-4-one (yield: 70%).

reactant | 8-bromo-5-fluoro-3-(4-methoxyphenyl)-1H-quinolin-4-one | 0.43 mmol, 150 mg | BrC=1C=CC(=C2C(C(=CNC12)C1=CC=C(C=C1)OC)=O)F | C16H11BrFNO2
reactant | 2-furan boronic acid | 1.3 mmol, 145 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | sodium carbonate | 2N, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 3 ml | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloro palladium (II) dichloromethane | 0.04 mmol, 35 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-fluoro-8-furan-2-yl-3-(4-methoxyphenyl)-1H-quinolin-4-one | yield: 70% | FC1=C2C(C(=CNC2=C(C=C1)C=1OC=CC1)C1=CC=C(C=C1)OC)=O | C20H14FNO3
